US09290465B2
{3-[4-(4-Fluoro-benzyloxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester (1.97 g, 5.13 mmol) was dissolved in 30 mL of dioxane and 30 mL of 4 N HCl/dioxane was added. The reaction was stirred at rt for 4 h and allowed to stand overnight. The resulting crystalline mass was mixed with diethyl ether (20 mL) and stirred for 10 min. The suspension was filtered off and washed with a total of 20 mL of diethyl ether. The filter cake was partitioned between ethyl acetate and 5% NaHCO3 solution and the organic phase separated. The aqueous phase was extracted with once more with ethyl acetate. The combined organic phases were washed twice with brine and dried over Na2SO4. Filtration followed by removal of volatiles under reduced pressure gave 3-[4-(4-fluoro-benzyloxy)-phenyl]-isoxazol-4-ylamine (1.32 g, 91%) as an off-white solid. M+1=285.2

reactant | {3-[4-(4-Fluoro-benzyloxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester | 5.13 mmol, 1.97 g | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F)=O | C21H21FN2O4
reactant | HCl dioxane | 4 N, 30 mL | Cl.O1CCOCC1
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 3-[4-(4-fluoro-benzyloxy)-phenyl]-isoxazol-4-ylamine | 1.32 g, 91% | FC1=CC=C(COC2=CC=C(C=C2)C2=NOC=C2N)C=C1 | C16H13FN2O2
